US06562828B1
N,N′-Di-tert-Butoxycarbonyl-7-(1-acetimidoylpiperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine
To a solution of N,N′-di-tert-butoxycarbonyl-7-(piperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine (100 mg) in a mixture of tetrahydrofuran (1.5 ml) and ethanol (1.5 ml) were added triethylamine (0.086 ml) and ethylacetoimidate hydrochloride (38 mg), and the mixture was stirred at room temperature for 18 hours. After completion of the reaction, ethyl acetate and diethyl ether were added and insoluble material was removed. The solvent was evaporated and the residue was dried under reduced pressure to give the title compound (120 mg).

reactant | N,N′-di-tert-butoxycarbonyl-7-(piperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine | 100 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N1CC2=CC(=CC=C2CC1)OCC1CCNCC1 | C26H40N4O5
reactant | triethylamine | 0.086 ml | C(C)N(CC)CC | C6H15N
reactant | ethylacetoimidate hydrochloride | 38 mg | Cl.C(C)OC(C)=N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N,N′-Di-tert-Butoxycarbonyl-7-(1-acetimidoylpiperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine | 120 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N1CC2=CC(=CC=C2CC1)OCC1CCN(CC1)C(C)=N | C28H43N5O5
